US05639913
(rac)-N-(4'-Fluorobenzoyl)-1-aminoindan
The title compound was prepared from (rac)-1-aminoindan (1.7 g, 12.85 mmole) and 4-fluorobenzoyl chloride (2.24 g, 14.1 mmole) as in Ex. 52; 1.71 g (6.7 mmole, 52%), mp: 109°-10° C.

reactant | (rac)-1-aminoindan | 12.85 mmole, 1.7 g | NC1CCC2=CC=CC=C12 | C9H11N
reactant | 4-fluorobenzoyl chloride | 14.1 mmole, 2.24 g | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
product | (rac)-N-(4'-Fluorobenzoyl)-1-aminoindan | FC1=CC=C(C(=O)NC2CCC3=CC=CC=C23)C=C1 | C16H14FNO
